US06316485B1
To a solution of 1-(3-chloro-4-methoxyphenyl)-3-(difluoromethyl)-5-[4-(methylthio)phenyl]pyrazole (2.0 g) in dichloromethane (50 ml) was added portionwise m-chloroperbenzoic acid (2.3 g, 80% purity) at 5° C. with stirring. After being stirred at room temperature for 2 hours, the reaction mixture was treated with aqueous solution of sodium thiosulfate and then partitioned between dichloromethane and water. The organic layer was separated, washed with aqueous sodium hydrogen carbonate solution and dried over magnesium sulfate. After evaporation of the solvent, the crude solid was recrystallized from ethanol to give 1-(3-chloro-4-methoxyphenyl)-3-(difluoromethyl)-5-[4-(methylsulfonyl)phenyl]pyrazole (1.8 g).

reactant | 1-(3-chloro-4-methoxyphenyl)-3-(difluoromethyl)-5-[4-(methylthio)phenyl]pyrazole | 2.0 g | ClC=1C=C(C=CC1OC)N1N=C(C=C1C1=CC=C(C=C1)SC)C(F)F | C18H15ClF2N2OS
reactant | m-chloroperbenzoic acid | 2.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(3-chloro-4-methoxyphenyl)-3-(difluoromethyl)-5-[4-(methylsulfonyl)phenyl]pyrazole | 1.8 g | ClC=1C=C(C=CC1OC)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)F | C18H15ClF2N2O3S
